US06884890B2
To (3-nitro-phenyl)-(3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazolyl)-amine (434 mg, 0.89 mmol) in THF (5 mL) cooled to −5° C. under an atmosphere of argon, was added dimethylsulfate (0.42 mL, 4.5 mmol) followed by LiHMDS (1M in THF) (1.8 mL, 1.8 mmol). After 20 min the reaction was quenched with saturated NH4Cl(aq) (2 mL), then extracted 3×20 mL EtOAc. The pooled organic material was washed with brine (10 mL), dried with Na2SO4, decanted and concentrated under reduced pressure. Purification by silica gel chromatography (eluting with hexane:EtOAc 9:1) gave methyl-(3-nitro-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)ethoxymethyl]-1H-indazol-6-yl}-amine, as an oil (367 mg, 82%): TLC (Hexane:EtOAc 7:3) Rf sm 0.29, Rf p 0.39 (ethyl acetate:hexane 3:7); FTIR (KBr) 2951, 2894, 1611, 1528, 1485, 1348, 1248, 1077 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.99 (d, 1H, J=8.67 Hz) 7.77 (t, 1H, J=2.25 Hz), 7.72 (dd, 1H, J=0.79, 2.09 Hz), 7.60, (d, 2H, J=7.22 Hz), 7.26-7.54 (m, 7H), 7.19 (dd, 1H, J=0.78, 2.41 Hz) 7.07 (dd, 1H, J=1.85, 8.69 Hz), 5.70 (s, 2H), 3.63 (t, 2H, J=8.10 Hz), 3.48 (s, 3H), 0.92 (t, 2H, J=8.10 Hz), −0.04 (s, 9H); 13C NMR (75 MHz, CDCl3) δ 150.2, 149.6, 147.1, 143.5, 142.5, 137.3, 131.9, 129.8, 129.0, 128.2, 126.8, 123.1, 122.6, 120.2, 120.0, 119.7, 114.4, 111.4, 104.5, 78.0, 66.8, 41.1, 18.0, −1.2; LCMS (ESI) [M+H]/z Calc'd 501, Found 510.

reactant | (3-nitro-phenyl)-(3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazolyl)-amine | 0.89 mmol, 434 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1=C2C(=NN(C2=CC=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C27H30N4O3Si
reactant | dimethylsulfate | 4.5 mmol, 0.42 mL | COS(=O)(=O)OC | C2H6O4S
reactant | LiHMDS | 1.8 mmol, 1M, 1.8 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl-(3-nitro-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)ethoxymethyl]-1H-indazol-6-yl}-amine | CN(C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C28H32N4O3Si
